### PR TITLE
[Merged by Bors] - feat: `Units` and `Associates` of `nonZeroDivisors`

### PR DESCRIPTION
**Pull request by xroblot**
This PR defines the following two group/monoid isomorphisms:
```lean
variable {α : Type*} [MonoidWithZero α]

def unitsNonZeroDivisorsEquiv : α⁰ˣ ≃* αˣ 
def nonZeroDivisorsAssociatesEquiv : (Associates α)⁰ ≃* Associates α⁰
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 1]
```diff
@@ -277,3 +275,78 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
 
 end nonZeroSMulDivisors
+
+noncomputable section Associated
+
+open nonZeroDivisors
+
+/-- The units of the monoid of non zero divisors of `α` are equivalent to the units of `α`. -/
+def nonZeroDivisorsUnitsEquiv (α : Type*) [MonoidWithZero α] :
+    (α⁰)ˣ ≃* αˣ :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:285]:
```suggestion
variable (α : Type*) [MonoidWithZero α]

def nonZeroDivisorsUnitsEquiv : (α⁰)ˣ ≃* αˣ :=
```
and below. Also does `α⁰ˣ` work as notation? Maybe it's confusing.

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 2]
```diff
@@ -277,3 +275,78 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
+theorem nonZeroDivisorsUnitsEquiv_apply (α : Type*) [MonoidWithZero α] (u : (α⁰)ˣ) :
+    nonZeroDivisorsUnitsEquiv α u = (u : α) := rfl
+
+@[simp]
+theorem nonZeroDivisorsUnitsEquiv_symm_apply (α : Type*) [MonoidWithZero α] (u : αˣ) :
+    ((nonZeroDivisorsUnitsEquiv α).symm u : α) = (u : α) := by
+  obtain ⟨v, rfl⟩ := (nonZeroDivisorsUnitsEquiv α).surjective u
+  rw [MulEquiv.symm_apply_apply, nonZeroDivisorsUnitsEquiv_apply]
+
+theorem Associates_mk_mem_nonZeroDivisors_iff {α : Type*} [CommMonoidWithZero α] (a : α) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:301]:
```suggestion
theorem associatesMk_mem_nonZeroDivisors_iff {α : Type*} [CommMonoidWithZero α] (a : α) :
```
or just
```suggestion
theorem mk_mem_nonZeroDivisors_iff {α : Type*} [CommMonoidWithZero α] (a : α) :
```
since which `mk` it is is clear from context

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 1 above)
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:285]: This has nothing to do with `Associates`, right?

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 3]
```diff
@@ -277,3 +275,78 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
+  map_one' := rfl
+  map_mul' x y := Quotient.inductionOn₂ x y fun _ _ ↦ rfl
+
+@[simp]
+theorem AssociatesNonZeroDivisorsMonoidHom_apply (α : Type*) [CommMonoidWithZero α] (a : α⁰) :
+    (AssociatesNonZeroDivisorsMonoidHom α ⟦a⟧ : Associates α) = Associates.mk (a : α) := rfl
+
+/-- This is the `MulEquiv` version of `AssociatesNonZeroDivisorsMonoidHom`. -/
+def AssociatesNonZeroDivisorsMulEquiv (α : Type*) [CommMonoidWithZero α] :
+    Associates α⁰ ≃* (Associates α)⁰  := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:333]:
```suggestion
    Associates α⁰ ≃* (Associates α)⁰ := by
```

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:285]: It does work and I do think it's that confusing...

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:285]: Indeed, but that's not a problem. right?

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 4]
```diff
@@ -277,3 +275,89 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
+section MonoidWithZero
+
+variable (α : Type*) [MonoidWithZero α]
+
+/-- The units of the monoid of non-zero divisors of `α` are equivalent to the units of `α`. -/
+def nonZeroDivisorsUnitsEquiv : α⁰ˣ ≃* αˣ :=
+  MulEquiv.ofBijective (Units.map α⁰.subtype) ⟨Units.map_injective Subtype.val_injective,
+    fun u ↦ ⟨IsUnit.unit ⟨⟨⟨u, IsUnit.mem_nonZeroDivisors u.isUnit⟩, ⟨(u⁻¹ : αˣ),
+        IsUnit.mem_nonZeroDivisors u⁻¹.isUnit⟩, by simp, by simp⟩, rfl⟩,
+      by rw [Units.ext_iff, IsUnit.unit_of_val_units, Units.coe_map, Submonoid.coe_subtype]⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:292]: This equivalence can be given fully computably, right? Mind making it so, so that `nonZeroDivisorsUnitsEquiv_symm_apply` is defeq?

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 5]
```diff
@@ -277,3 +275,89 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
+  map_one' := rfl
+  map_mul' x y := Quotient.inductionOn₂ x y fun _ _ ↦ rfl
+
+@[simp]
+theorem AssociatesNonZeroDivisorsMonoidHom_apply (a : α⁰) :
+    (AssociatesNonZeroDivisorsMonoidHom α ⟦a⟧ : Associates α) = Associates.mk (a : α) := rfl
+
+/-- This is the `MulEquiv` version of `AssociatesNonZeroDivisorsMonoidHom`. -/
+def AssociatesNonZeroDivisorsMulEquiv :
+    Associates α⁰ ≃* (Associates α)⁰ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:342]:
```suggestion
def associatesNonZeroDivisorsMulEquiv :
    Associates α⁰ ≃* (Associates α)⁰ := by
```

Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:342]: Similarly, this can be produced fully computably.

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: `MulEquiv.ofBijective` is noncomputable so I would need to use something else.

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: I'll try using `MulHom.toMulEquiv` instead.

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Hum, `IsUnit.unit` is also noncomputable...

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Any way it works

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: All I'm saying is that the section name is inappropriate if it only refers to half the declarations within it 😄

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Yes, that's true. I'll change it

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 6]
```diff
@@ -277,3 +275,86 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
 
 end nonZeroSMulDivisors
+
+section Associated
+
+open nonZeroDivisors
+
+section MonoidWithZero
+
+variable (α : Type*) [MonoidWithZero α]
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:285]: I think having `α` will be nicer in most use cases
```suggestion
variable {α : Type*} [MonoidWithZero α]
```

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean [hunk 7]
```diff
@@ -277,3 +275,86 @@ lemma nonZeroSMulDivisors_mulOpposite_eq_op_nonZeroDivisors :
...
+
+/-- The units of the monoid of non-zero divisors of `α` are equivalent to the units of `α`. -/
+def nonZeroDivisorsUnitsEquiv : α⁰ˣ ≃* αˣ :=
+  MulHom.toMulEquiv (Units.map α⁰.subtype) ⟨fun u ↦ ⟨⟨u, IsUnit.mem_nonZeroDivisors u.isUnit⟩,
+      ⟨(u⁻¹ : αˣ), IsUnit.mem_nonZeroDivisors u⁻¹.isUnit⟩, by simp, by simp⟩,
+      fun _ _ ↦ by simp_rw [Units.ext_iff, Units.val_mul, Submonoid.mk_mul_mk]⟩ rfl rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean:291]:
```suggestion
  (Units.map α⁰.subtype).toMulEquiv ⟨fun u ↦ ⟨⟨u, u.isUnit.mem_nonZeroDivisors⟩,
      ⟨(u⁻¹ : αˣ), u⁻¹.isUnit.mem_nonZeroDivisors⟩, by simp, by simp⟩,
      fun _ _ ↦ by simp_rw [Units.ext_iff, Units.val_mul, Submonoid.mk_mul_mk]⟩ rfl rfl
```

File: Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Tell me if you need help with this one

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Yeah, that one is a bit trickier. I'll try to make it work and I'll get back to you if I can't. Thanks.

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: (And feel free to push your changes too)

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Done. Tell me if you like it.

Comment (xroblot) [reply Mathlib/Algebra/GroupWithZero/NonZeroDivisors.lean]: Well, it is a lot cleaner. Thanks!

**Comment by YaelDillies** [comment]
Okay, I'm happy with this. LGTM.

maintainer merge

**Comment by YaelDillies** [comment]
Fixed!

**Comment by YaelDillies** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
